US05102898
Preparation of 3-propargyl-5-chlorobenzoxazol-2-one
In a 500-mL round bottom flask equipped with a magnetic stirrer, reflux condenser and a heating mantle were placed chlorzoxazone, or 5-chlorobenzoxazol-2-one, (10 g, 0.059 mole), potassium carbonate (9.8 g, 0.071 mole), propargyl bromide (10.5 g of 80% in toluene, 0.071 mole) and acetone (200 mL). The mixture was refluxed for 20 hours. The mixture was cooled down to room temperature and the solid was filtered off by suction-filtration. The filtrate was concentrated on a rotary evaporator to a solid residue. A pure, off-white product was obtained by crystallization from ethyl acetate hexane yielding 10.5 g (86%). m.p.

reactant | chlorzoxazone | C1=CC2=C(C=C1Cl)NC(=O)O2 | C7H4ClNO2
reactant | 5-chlorobenzoxazol-2-one | 0.059 mole, 10 g | ClC=1C=CC2=C(NC(O2)=O)C1 | C7H4ClNO2
reactant | potassium carbonate | 0.071 mole, 9.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.071 mole, 10.5 g | C(C#C)Br | C3H3Br
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 3-propargyl-5-chlorobenzoxazol-2-one | C(C#C)N1C(OC2=C1C=C(C=C2)Cl)=O | C10H6ClNO2
